US08536165B2
C. 2-(3-Methoxyphenyl)-5-nitro-3-phenylpyridine
Obtained (0.258 g, yield 87%) following the procedure described in Intermediate 27, starting with 3-bromo-2-(3-methoxyphenyl)-5-nitropyridine (0.97 mmol, 0.300 g), phenylboronic acid (1.07 mmol, 0.130 g).

reactant | 3-bromo-2-(3-methoxyphenyl)-5-nitropyridine | 0.97 mmol, 0.300 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])C1=CC(=CC=C1)OC | C12H9BrN2O3
reactant | phenylboronic acid | 1.07 mmol, 0.130 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-(3-Methoxyphenyl)-5-nitro-3-phenylpyridine | yield 87% | COC=1C=C(C=CC1)C1=NC=C(C=C1C1=CC=CC=C1)[N+](=O)[O-] | C18H14N2O3
